US07612067B2
D. 8-(1-Ethyl-propyl)-3-[3-methoxy-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine.
To a slurry of 0.05 g/mL of Reike® Zn in THF (2.8 mL, 2.11 mmol) is added 5-bromo-1-methyl-1H-[1,2,4]triazole and THF (2 mL). The solution is heated at 65° C. for 1 hour, cooled to ambient temperature and the excess Zn allowed to settle for 1 hour. The solution is transferred to a flask containing 8-(1-ethyl-propyl)-3-(5-iodo-3-methoxy-thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.32 g, 0.70 mmol) and Pd(PPh3)4 (0.041 g, 0.035 mmol). The solution is heated at 65° C. overnight, diluted with EtOAc (30 mL) washed with sat. NH4Cl (30 mL). The aqueous phase is extracted with EtOAc (20 mL). The combined organic layers are dried over MgSO4, filtered and concentrated. The reside is purified by ISCO column chromatography (20%-65% EtOAc/hexane gradient) followed by ISCO column chromatography (100% Et2O) furnish the title compound (0.19 g, 0.46 mmol, 62%). 1H NMR (CDCl3) δ 0.86 (t, J=7.5 Hz, 6H), 1.73-1.91 (m, 4H), 2.51 (s, 3H), 2.52 (s, 3H), 3.26-3.37 (m, 1H), 3.92 (s, 3H), 4.15 (s, 3H), 6.67 (s, 1H), 7.48 (s, 1H), 7.89 (s, 1H). LC/MS (m/z): calcd. for C21H26N6OS (M+H)+: 411.5. found: 411.3.

reactant | THF | 2.11 mmol, 2.8 mL | C1CCOC1 | C4H8O
reactant | 5-bromo-1-methyl-1H-[1,2,4]triazole | BrC1=NC=NN1C | C3H4BrN3
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | 8-(1-ethyl-propyl)-3-(5-iodo-3-methoxy-thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.70 mmol, 0.32 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2OC)I | C18H22IN3OS
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Zn | [Zn] | Zn
catalyst | Pd(PPh3)4 | 0.035 mmol, 0.041 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(1-Ethyl-propyl)-3-[3-methoxy-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.46 mmol, 0.19 g, 62% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2OC)C=2N(N=CN2)C | C21H26N6OS
